US04540780
A mixture of ethyl isonipecotate (7.85 g, 0.05 mole, N-(2-chloroethyl)morpholine hydrochloride (9.30 g, 0.05 mole) and sodium bicarbonate (12.0 g, 0.14 mole) inEtOH (250 ml) was stirred at room temperature for two hours and at reflux temperature for three hours. The reaction mixture was filtered, concentrated and the residue extracted with Et2O. The Et2O layer was concentrated to give 13.4 g (quantitative yield) of 4-piperidinecarboxylic acid, 1-[2-(4-morpholinyl)-ethyl]-, ethyl ester, NMR (CDCl3) 4.0 (t, 2H), 3.6 (m, 4H), 3.0-2.3 (m, 13H), 2.2-1.5 (m, 4H), 1.4-1.0 (t, 3H).

reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | N-(2-chloroethyl)morpholine hydrochloride | 0.05 mole, 9.30 g | Cl.ClCCN1CCOCC1
reactant | sodium bicarbonate | 0.14 mole, 12.0 g | C([O-])(O)=O.[Na+]
product | 4-piperidinecarboxylic acid | 13.4 g, quantitative yield | N1CCC(CC1)C(=O)O | C6H11NO2
